US04171431
To a solution consisting of 3.59 gm. (0.010 mole) of 1-(5-tert-butyldimethylsilyl-2-deoxy-β-D-ribofuranosyl)-5-methyl-5,6-dihydro-s-triazine-2,4-(1H,3H)-dione and 30 ml. A.R. pyridine that had been cooled to 5° C. was added, with stirring, 2.55 gm. (0.0116 mole) of freshly distilled lauroyl chloride. This reaction mixture was stirred for 18 hours at 25° C. Then it was cooled to 10° C. and 3 ml. water was added. This mixture was stirred at 25° C. while the solvents were removed by evaporation under reduced pressure. The residue thus obtained was dispersed in a solvent mixture consisting of 100 ml. chloroform and 50 ml. saturated aqueous sodium bicarbonate. The aqueous and organic phases were allowed to stabilize and the organic phase was saved. It was washed two times with 50 ml. portions of saturated aqueous sodium bicarbonate and dried over anhydrous magnesium sulfate. The dried chloroform solution was filtered and the filter was washed with chloroform. The filtrate and washings were combined and the chloroform was removed by evaporation under reduced pressure. There was thus obtained 4.8 gm. (88.7% yield) of 1-(5-tert-butyldimethylsilyl-3-lauroyl-2-deoxy-β-D-ribofuranosyl)-5,6-dihydro-5-methyl-s-triazine-2,4-(1H,3H)-dione.

reactant | 1-(5-tert-butyldimethylsilyl-2-deoxy-β-D-ribofuranosyl)-5-methyl-5,6-dihydro-s-triazine-2,4-(1H,3H)-dione | 0.010 mole | [Si](C)(C)(C(C)(C)C)C([C@@H]1[C@H](C[C@@H](O1)N1C(NC(N(C1)C)=O)=O)O)O | C15H29N3O5Si
reactant | pyridine | N1=CC=CC=C1 | C5H5N
reactant | lauroyl chloride | C(CCCCCCCCCCC)(=O)Cl | C12H23ClO
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | water | O | H2O
product | 1-(5-tert-butyldimethylsilyl-3-lauroyl-2-deoxy-β-D-ribofuranosyl)-5,6-dihydro-5-methyl-s-triazine-2,4-(1H,3H)-dione | 88.7% yield | [Si](C)(C)(C(C)(C)C)C([C@@H]1[C@](C[C@@H](O1)N1C(NC(N(C1)C)=O)=O)(O)C(CCCCCCCCCCC)=O)O | C27H51N3O6Si
